US07504392B2
a) 7-Methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A mixture of 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (see EP 285287) (25 g, 125 mmol) and 37% formalin (25 mL) in dichloroethane (250 mL) was treated with sodium triacetoxyborohydride (30 g, 250 mmol) keeping the internal temperature below 20° C. After stirring for 2 h, water was added and the pH adjusted to 10 using 50% sodium hydroxide solution. The organic layer was separated, dried over sodium sulfate and evaporated to dryness to afford the product (23 g).

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 125 mmol, 25 g | Cl.COC1=CC2=C(CCNCC2)C=C1
reactant | formalin | 25 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 250 mmol, 30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloroethane | 250 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 7-Methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 23 g | COC1=CC2=C(CCN(CC2)C)C=C1 | C12H17NO
